US04690931
1. 4'-Benzyloxy-3'-methoxycarbonylpropiophenone
38 g of potassium carbonate and 12.65 ml, (14 g) of benzyl chloride are added to 20.8 g of 4'-hydroxy-3'-methoxycarbonylpropiophenone in 100 ml of dimethylformamide. The mixture is heated at 60° C. for 4 hours, with stirring. It is then poured into iced water, the mixture is extracted with ethyl acetate and the organic phase is washed with water, dried and evaporated to dryness. The residual oil crystallises on trituration with pentane. The crystals are filtered off and recrystallised from ethanol. 18 g of crystals melting at 76°-78° C. are collected.

reactant | potassium carbonate | 38 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 14 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4'-hydroxy-3'-methoxycarbonylpropiophenone | 20.8 g | OC1=C(C=C(C=C1)C(CC)=O)C(=O)OC | C11H12O4
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4'-Benzyloxy-3'-methoxycarbonylpropiophenone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)=O)C(=O)OC | C18H18O4
